US04147864
A distilled solution of diazomethane in ether (containing 1.3 mM of diazomethane) is added to a solution of crude 2-[4-(benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester, obtained by ozonisation of 681 mg (1.0 mM) of 2-[4-(benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester, in 5 ml of methylene chloride at 0° C. The mixture is stirred for one hour at 0° C. and washed with water, and the organic layer is dried over sodium sulphate. The solvents are removed in vacuo and the residue is chromatographed on 35 g of acid-washed silica gel, using toluene/ethyl acetate, 2:1. An isomer mixture consisting of 2-[4-(benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-crotonic acid diphenylmethyl ester and the corresponding isocrotonic acid diphenylmethyl ester is obtained. IR spectrum (in CH2Cl2): 5.60, 5.88, 6.67, 9.15 and 9.92 μ.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 2-[4-(benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SSC=1SC2=C(N1)C=CC=C2)NC(COC2=CC=CC=C2)=O)=O)=O | C35H29N3O6S3
solvent | ether | 1.3 mM | CCOCC | C4H10O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(benzthiazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester | 1.0 mM, 681 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(C)=C)N1C(C(C1SSC=1SC2=C(N1)C=CC=C2)NC(COC2=CC=CC=C2)=O)=O)=O | C36H31N3O5S3
